US08629270B2
(2-Chloro-5-fluoro-pyrimidin-4-yl)methanol
To a solution of 5-fluoro-2-chloropyrimidine (500 μL, 5.24 mmol) in methanol (50 mL) is added benzoyl peroxide (1.5 g, 6.0 mmol) and trifluoroacetic acid (450 μL, 5.95 mmol). The resulting colorless clear solution is degassed by bubbling nitrogen through for 5 minutes and it is then heated at 65° C. for 18.5 hours. The solution is then cooled and concentrated. The resulting residue is diluted with chloroform (50 mL) and washed with saturated aqueous sodium bicarbonate solution (50 mL) and the layers are separated. The aqueous layer is re-extracted with chloroform (50 mL). The combined organic layers are dried over magnesium sulfate, filtered and concentrated to dryness under reduced vacuum. The residue is purified by flash silica gel column chromatography, eluting with gradient of ethyl acetate/dichloromethane (0% to 30%) to give the title compound (210 mg, 25%). 1H-NMR (CDCl3): δ (ppm) 8.42 (s, 1H), 4.85 (s, 2H), 3.57 (br, 1H).

reactant | 5-fluoro-2-chloropyrimidine | 5.24 mmol, 500 μL | FC=1C=NC(=NC1)Cl | C4H2ClFN2
reactant | benzoyl peroxide | 6.0 mmol, 1.5 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | trifluoroacetic acid | 5.95 mmol, 450 μL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methanol | 50 mL | CO | CH4O
product | (2-Chloro-5-fluoro-pyrimidin-4-yl)methanol | 210 mg, 25% | ClC1=NC=C(C(=N1)CO)F | C5H4ClFN2O
